US06897208B2
5,6-dimethyl-2-(5-methyl-2H-pyrazol-3-yl)-1H-benzimidazole
5-Methyl-2H-pyrazole-3-carboxaldehyde may be prepared from commercial ethyl 5-methyl-2H-pyrazole-3-carboxylate by following the procedure described for the preparation of 1H-indazole-3-carboxaldehyde, starting with methyl 3-indazolecarboxylate.

reactant | 5-Methyl-2H-pyrazole-3-carboxaldehyde | CC=1C=C(NN1)C=O | C5H6N2O
reactant | ethyl 5-methyl-2H-pyrazole-3-carboxylate | CC=1C=C(NN1)C(=O)OCC | C7H10N2O2
reactant | 1H-indazole-3-carboxaldehyde | N1N=C(C2=CC=CC=C12)C=O | C8H6N2O
reactant | methyl 3-indazolecarboxylate | N1N=C(C2=CC=CC=C12)C(=O)OC | C9H8N2O2
product | 5,6-dimethyl-2-(5-methyl-2H-pyrazol-3-yl)-1H-benzimidazole | CC1=CC2=C(NC(=N2)C=2NN=C(C2)C)C=C1C | C13H14N4
